US08877157B2
Part A—Preparation of 6-(Prop-2-enyloxycarbonylamino)hexyl methylsulfonate
A solution of N-(6-hydroxyhexyl)prop-2-enyloxycarboxamide (2.55 g, 12.7 mmol; Charreyre, M. T.; Boullanger, P.; Pichot, C.; Delair, T.; Mandrand, B.; Llauro, M. F. Mak. Chem. 1993, 194(1), 117-35.) in dry CH2Cl2 (30.0 mL) was treated with Et3N (4.06 mL, 29.1 mmol) then cooled to 0° C. To this solution was transferred MsCl (15.2 mmol; 20.0 mL of a 0.76 M solution in CH2Cl2) using a cannula; full conversion coincided with completion of the transfer. The resulting solution was warmed to 22° C., then treated with 2 M NH4Cl (50 mL) and transferred to a separatory funnel. The layers separated and the aqueous layer washed with CH2Cl2 (3×50 mL). The combined washes were washed with 20% aqueous NaCl then dried over MgSO4, filtered and concentrated in vacuo to a pale yellow oil (3.2 g) that was used without further purification in the subsequent alkylation step. 1H NMR (CDCl3, 300 MHz): δ 5.90 (1H, ddt, J=17.2, 10.4, 5.6 Hz), 5.29 (1H, dq, J=17.2, 1.6 Hz), 5.19 (1H, dq, J=10.4, 1.3 Hz), 4.71 (1H, brs), 4.54 (2H, brd, J=5.5 Hz), 4.20 (2H, t, J=6.5 Hz), 3.17 (2H, brs), 2.98 (3H, s), 1.79-1.69 (2H, m), 1.55-1.29 (6H, m).

reactant | N-(6-hydroxyhexyl)prop-2-enyloxycarboxamide | 12.7 mmol, 2.55 g | OCCCCCCNC(=O)OCC=C | C10H19NO3
reactant | Et3N | 29.1 mmol, 4.06 mL | CCN(CC)CC | C6H15N
reactant | MsCl | CS(=O)(=O)Cl | CH3ClO2S
reactant | NH4Cl | 2 M, 50 mL | [NH4+].[Cl-]
solvent | CH2Cl2 | 30.0 mL | C(Cl)Cl | CH2Cl2
product | 6-(Prop-2-enyloxycarbonylamino)hexyl methylsulfonate | CS(=O)(=O)OCCCCCCNC(=O)OCC=C | C11H21NO5S
